US07635715B2
Step D: Preparation of Ethyl 7-chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
P2O5 (1.43 g, 10.1 mmol) was suspended in H2SO4 (5.38 mL) and cooled to 0° C. Diethyl 2-(2-(3-chloro-4-fluorophenyl)-2-methylpropanoyl)malonate (3.62 g, 10.1 mmol) was added, and the reaction was stirred at 0° C. for 1 hour. The reaction mixture was poured into ice, diluted with 150 mL of diethyl ether, added to a separatory funnel, partitioned with water, washed with water (2×75 mL), separated, dried over Na2SO4, and concentrated in vacuo to the title compound (1.46 g) as a white amorphous solid after flash chromatography. MS m/e=313 (M+H)+.

reactant | P2O5 | 10.1 mmol, 1.43 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | Diethyl 2-(2-(3-chloro-4-fluorophenyl)-2-methylpropanoyl)malonate | 10.1 mmol, 3.62 g | ClC=1C=C(C=CC1F)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H20ClFO5
solvent | H2SO4 | 5.38 mL | OS(=O)(=O)O | H2O4S
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | Ethyl 7-chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | ClC1=C(C=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)OCC)O)F | C15H14ClFO4
